US08956999B2
2,5-dichlorophenylboronic acid (266 mg, 1.39 mmol), 5-(2-bromothiazol-5-ylmethoxy)-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione (250 mg, 0.7 mmol), toluene (3 ml), caesium carbonate (310 mg, 0.95 mmol) and [1,3-bis(2,6-diisopropyl)imidazol-2-ylidene](3-chloropyridyl)palladium II dichloride (60 mg, 0.12 mmol) are mixed together in a microwave vial and heated to 150° C. for 30 min under microwave irradiation. The reaction mixture is cooled, filtered, evaporated and purified by flash chromatography on silica gel to give an orange oil. The oil is dissolved in diglyme (3 ml) and 1-butyl-3-methyl imidazolium bis(trifluoromethylsulfonyl)imide (0.1 ml) and heated under microwave irradiation at 210° C. for 30 min. The reaction mixture is cooled to room temperature, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 6-[2-(2,5-dichlorophenyl)-5-methylthiazol-4-yl]-2,2,4,4-tetramethylcyclohexane-1,3,5-trione.

reactant | 2,5-dichlorophenylboronic acid | 1.39 mmol, 266 mg | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | 5-(2-bromothiazol-5-ylmethoxy)-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione | 0.7 mmol, 250 mg | BrC=1SC(=CN1)COC1=CC(C(C(C1(C)C)=O)(C)C)=O | C14H16BrNO3S
reactant | caesium carbonate | 0.95 mmol, 310 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-butyl-3-methyl imidazolium bis(trifluoromethylsulfonyl)imide | 0.1 ml | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(CCC)[N+]1=CN(C=C1)C
solvent | diglyme | 3 ml | COCCOCCOC | C6H14O3
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[2-(2,5-dichlorophenyl)-5-methylthiazol-4-yl]-2,2,4,4-tetramethylcyclohexane-1,3,5-trione | ClC1=C(C=C(C=C1)Cl)C=1SC(=C(N1)C1C(C(C(C(C1=O)(C)C)=O)(C)C)=O)C | C20H19Cl2NO3S
